US04415572
5-(1-Piperazinyl)-3,4-dihydrocarbostyril monohydrobromide (3.5 g) was suspended in 40 ml DMF. After adding 960 mg of sodium hydrogencarbonate, the suspension was stirred at room temperature for 30 minutes to convert the starting compound to 5-(1-piperazinyl)-3,4-dihydrocarbostyril. Then, to the mixture was added 2.34 ml of triethylamine and the mixture was stirred at room temperature while slowly adding dropwise 10 ml of DMF solution containing 3.0 g of 3,5-dichlorobenzoyl chloride. After completion of addition the reaction mixture was stirred for 40 minutes. The reaction mixture was poured into a large amount of saturated saline solution and extracted with chloroform. The extract was washed with saturated sodium hydrogencarbonate solution and subsequently with water and dried over anhydrous sodium sulfate. Chloroform was distilled off and residual crystals were recrystallized from methanol-chloroform to give 1.8 g of 5-[4-(3,5-dichlorobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 255°-257° C., colorless needles.

reactant | 5-(1-Piperazinyl)-3,4-dihydrocarbostyril monohydrobromide | 3.5 g | Br.N1(CCNCC1)C1=C2CCC(NC2=CC=C1)=O
reactant | sodium hydrogencarbonate | 960 mg | C(O)([O-])=O.[Na+]
reactant | 5-(1-piperazinyl)-3,4-dihydrocarbostyril | N1(CCNCC1)C1=C2CCC(NC2=CC=C1)=O | C13H17N3O
reactant | 3,5-dichlorobenzoyl chloride | 3.0 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 2.34 ml | C(C)N(CC)CC | C6H15N
product | 5-[4-(3,5-dichlorobenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 1.8 g | ClC=1C=C(C(=O)N2CCN(CC2)C2=C3CCC(NC3=CC=C2)=O)C=C(C1)Cl | C20H19Cl2N3O2
